US08252563B2
Racemic 2-(2-methoxymethyl-phenyl)-N-methyl-2-hydroxyacetamide was synthesized by reducing 2-(2-methoxymethyl-phenyl)-N-methyl-2-oxo-acetamide with NaBH4 in methanol.

reactant | 2-(2-methoxymethyl-phenyl)-N-methyl-2-oxo-acetamide | COCC1=C(C=CC=C1)C(C(=O)NC)=O | C11H13NO3
reactant | NaBH4 | [BH4-].[Na+]
solvent | methanol | CO | CH4O
product | Racemic 2-(2-methoxymethyl-phenyl)-N-methyl-2-hydroxyacetamide | COCC1=C(C=CC=C1)C(C(=O)NC)O | C11H15NO3
